US06933311B2
2-(3-methyl-5-isoquinolinyl)-N-[4-(trifluoromethyl)benzyl]acetamide
The title compound was prepared using the procedure described in Example 222B using (3-methyl-5-isoquinolinyl)acetic acid and 4-(trifluoromethyl)benzylamine instead of 5-isoquinolinylacetic acid and 4-(trifluoromethoxy)benzylamine. MS (ESI+) m/z 359 (M+H)+; MS (ESI−) m/z 357 (M−H)−; 1H NMR (DMSO, 300 MHz) δ 2.77 (s, 3H), 4.12 (s, 2H), 4.37 (d, J 6.1, 2H), 7.47 (d, J 7.8, 2H), 7.68 (d, J 8.1, 2H), 7.86 (t, J 7.4, 1H), 8.03 (d, J 6.4, 1H), 8.36 (m, 2H), 9.03 (t, J 5.8, 1H), 9.77 (s, 1H); Anal. Calcd for C20H17F3N2O+1.85 HCl: C, 56.44; H, 4.57. Found: C, 56.41; H, 4.46.

reactant | (3-methyl-5-isoquinolinyl)acetic acid | CC=1N=CC2=CC=CC(=C2C1)CC(=O)O | C12H11NO2
reactant | 4-(trifluoromethyl)benzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | 4-(trifluoromethoxy)benzylamine | FC(OC1=CC=C(CN)C=C1)(F)F | C8H8F3NO
product | 2-(3-methyl-5-isoquinolinyl)-N-[4-(trifluoromethyl)benzyl]acetamide | CC=1N=CC2=CC=CC(=C2C1)CC(=O)NCC1=CC=C(C=C1)C(F)(F)F | C20H17F3N2O
